US08003800B2
A solution of rac-1-amino-3-{4-[5-(4-isobutyl-3-methyl-thiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenoxy}-propan-2-ol (100 mg, 0.241 mmol) in DCM (1 mL) is added to a stirred solution of Boc-sarcosine (60 mg, 0.317 mmol), DIPEA (38 mg, 0.292 mmol) and TBTU (85 mg, 0.265 mmol) in DCM (5 mL). The mixture is stirred at rt for 1 h, diluted with DCM (50 mL) and washed with sat. aq. Na2CO3 (2×20 mL). The organic extract is dried (Na2SO4), filtered and evaporated. The residue dissolved in 4M HCl in dioxane (10 mL) and stirred for 1 h. The mixture is diluted with DCM (75 mL) and washed with 1 N aq. NaOH (50 mL). The aq. phase is extracted with DCM (3×30 mL). The combined organic extracts are dried (Na2SO4), filtered and evaporated. The residue is purified on prep. TLC plates with DCM containing 10% of 7 N NH3 in MeOH to give rac-N-(2-hydroxy-3-{4-[5-(4-isobutyl-3-methyl-thiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenoxy}-propyl)-2-methylamino-acetamide (89 mg) as a white powder; LC-MS: tR=0.89 min, [M+1]=487.26; 1H NMR (D6-DMSO): δ 7.85 (t, J=6 Hz, 1H), 7.70 (s, 2H), 7.65 (s, 1H), 5.27 (d br, J=5 Hz, 1H), 3.93-3.85 (m, 1H), 3.76-3.65 (m, 2H), 3.43-3.35 (m, 1H), 3.24-3.14 (m, 1H), 3.02 (s, 2H), 2.54 (s, 3H), 2.45 (d, J=6.4 Hz, 2H), 2.30 (s, 6H), 2.20 (s, 3H), 1.83 (hept, J=7.0 Hz, 1H), 0.88 (d, J=7.0 Hz, 6H).

reactant | rac-1-amino-3-{4-[5-(4-isobutyl-3-methyl-thiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenoxy}-propan-2-ol | 0.241 mmol, 100 mg | NCC(COC1=C(C=C(C=C1C)C1=NOC(=N1)C=1SC=C(C1C)CC(C)C)C)O | C22H29N3O3S
reactant | Boc-sarcosine | 0.317 mmol, 60 mg | C(=O)(OC(C)(C)C)N(C)CC(=O)O | C8H15NO4
reactant | DIPEA | 0.292 mmol, 38 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.265 mmol, 85 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | rac-N-(2-hydroxy-3-{4-[5-(4-isobutyl-3-methyl-thiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenoxy}-propyl)-2-methylamino-acetamide | 89 mg | OC(CNC(CNC)=O)COC1=C(C=C(C=C1C)C1=NOC(=N1)C=1SC=C(C1C)CC(C)C)C | C25H34N4O4S
